US08703922B2
Synthesis of 5,9,13-trimethyltetradec-4-en-1-ol
Under a nitrogen atmosphere, 16.8 g (443 mmol) of ithium aluminum hydride was added little by little at 0° C. to a solution of 50.0 g (177 mmol) of methyl 5,9,13-trimethyltetradec-4-enoate in dry tetrahydrofuran (440 mL). After being stirred at 50° C. for 4 hours, the reaction mixture was cooled on ice, followed by careful addition of saturated sodium sulfate aqueous solution until the resulting gray suspension turned white. Sodium sulfate was added to the solution at room temperature for drying. After filtration, the filtrate was concentrated to obtain 45 g of the title compound (100% yield) as a slightly yellow transparent liquid. The results of NMR analysis of the obtained compound are as shown below.

reactant | aluminum hydride | [H-].[Al+3].[H-].[H-]
reactant | methyl 5,9,13-trimethyltetradec-4-enoate | 177 mmol, 50.0 g | CC(=CCCC(=O)OC)CCCC(CCCC(C)C)C | C18H34O2
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 440 mL | O1CCCC1 | C4H8O
product | 5,9,13-trimethyltetradec-4-en-1-ol | 45 g, 100% yield | CC(=CCCCO)CCCC(CCCC(C)C)C | C17H34O
